US05223529
Working in a manner similar to that described in Example 9, but starting with 2-indolcarboxylic acid (1.3 g), oxalyl dichloride (1 g) and (RS)-2-amino-N,N-diphenylpropionamide (1.2 g), and after recrystallization in acetonitrile, (RS)-N-(1-diphenylcarbamoylethyl)-2-indolcarboxamide (1.6 g), m.p. 242° C., is obtained.

reactant | 2-indolcarboxylic acid | 1.3 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl dichloride | 1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (RS)-2-amino-N,N-diphenylpropionamide | 1.2 g | NC(C(=O)N(C1=CC=CC=C1)C1=CC=CC=C1)C | C15H16N2O
product | (RS)-N-(1-diphenylcarbamoylethyl)-2-indolcarboxamide | 1.6 g | C1(=CC=CC=C1)N(C(=O)C(C)NC(=O)C=1NC2=CC=CC=C2C1)C1=CC=CC=C1 | C24H21N3O2
